US06344580B1
Preparation of 5-(4-chlorobenzyl)-5-cyano-2,2-dimethylcyclopentanone
A 60% mineral oil suspension of sodium hydride (12.7 g, 0.31 mole) in dimethylformamide under nitrogen, is treated with cyano-2,2-dimethylcyclopentanone over a 50 minute period at ice-bath temperatures, then with a solution of 4-chloro-benzyl chloride (50.2 g, 0.31 mole) over a 30 minute period, stirred for 5 hours and quenched with water. The resultant mixture is extracted with ethyl acetate. The extracts are combined, washed with water and concentrated in vacuo to afford a solid residue. The residue is titurated with hexane to afford the title product as white crystals, 59.3 g (72.6% yield), mp 101°-103° C., identified by gas chromatography.

reactant | sodium hydride | 0.31 mole, 12.7 g | [H-].[Na+]
reactant | cyano-2,2-dimethylcyclopentanone | C(#N)C1C(C(CC1)=O)(C)C | C8H11NO
reactant | 4-chloro-benzyl chloride | 0.31 mole, 50.2 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | hexane | CCCCCC | C6H14
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(4-chlorobenzyl)-5-cyano-2,2-dimethylcyclopentanone | 72.6% yield | ClC1=CC=C(CC2(CCC(C2=O)(C)C)C#N)C=C1 | C15H16ClNO
